US05087627
2. (±)-1,2-Bis(4-fluorophenyl)ethylamine hydrochloride
A mixture of 1,2-bis(4-fluorophenyl)-1-oxoethane (2.13 g) and ammonium formate (3.78 g) was stirred for 10 hours at 190° C.. After cooling, concentrated hydrochloric acid (12 ml) was added to the reaction mixture and the mixture was refluxed for 5 hours. After cooling, aqueous sodium hydroxide solution was added to the mixture and alkalized. The product was extracted with ethyl acetate and the organic layer was washed with saturated sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and concentrated in vacuo. The oily residue was dissolved in methanol. To the solution, HCl/methanol was added and the solution was concentrated in vacuo. Separated crystals were collected by filtration to give 1.77 g (65.6%) of the titled compound.

reactant | 1,2-bis(4-fluorophenyl)-1-oxoethane | 2.13 g | FC1=CC=C(C=C1)C(CC1=CC=C(C=C1)F)=O | C14H10F2O
reactant | ammonium formate | 3.78 g | C(=O)[O-].[NH4+]
reactant | hydrochloric acid | 12 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | (±)-1,2-Bis(4-fluorophenyl)ethylamine hydrochloride | 1.77 g, 65.6% | Cl.FC1=CC=C(C=C1)C(CC1=CC=C(C=C1)F)N | InChI=1S/C14H13F2N.ClH/c15-12-5-1-10(2-6-12)9-14(17)11-3-7-13(16)8-4-11;/h1-8,14H,9,17H2;1H
